US05859256
4-ethoxycarbonyl-5-[2-(phenylsulfonyl)ethylthio]thiazole
To a solution of potassium tert-butoxide (496 mg, 4.4 mmol) in 10 ml of THF was added a solution of ethyl isocyanoacetate (0.48 ml, 4.4 mmol) in 5 ml of THF at -40° C. and the reaction mixture was continued to stir for 10 min. After the reaction was cooled down to -60° C., a solution carbon disulfide in 5 ml of THF was added. The resulting mixture was allowed to warm up to 0° C. and 2-iodoethyl phenyl sulfone (4.4 mmol) was added. The mixture was then stirred at refluxed condition for 5 hours. After it was cooled down to room temperature, water and ethyl acetate were added. The aqueous layer was adjusted to acidic condition with dilute hydrochloric acid and extracted with ethyl acetate. The combined organic layer was dried with anhydrous sodium sulfate and the solvent was removed under reduced pressure. The crude residue was purified by chromatography to give the title compound (890 mg, 56%). 1H NMR (CDCl3) δ 1.40 (t, 3H, J=7), 3.3-3.5 (m, 4H), 4.40 (q, 2H, J=7), 7.6 (t, 2H, J=8), 7.70 (t, 1H, J=8), 7.93 (d, 2H, J=8), and 8.64 (s, 1H).

reactant | potassium tert-butoxide | 4.4 mmol, 496 mg | CC(C)([O-])C.[K+]
reactant | ethyl isocyanoacetate | 4.4 mmol, 0.48 ml | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | 2-iodoethyl phenyl sulfone | 4.4 mmol | C1(=CC=CC=C1)S(=O)(=O)CCI | C8H9IO2S
reactant | hydrochloric acid | Cl | ClH
reactant | carbon disulfide | C(=S)=S | CS2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-ethoxycarbonyl-5-[2-(phenylsulfonyl)ethylthio]thiazole | 890 mg, 56% | C(C)OC(=O)C=1N=CSC1SCCS(=O)(=O)C1=CC=CC=C1 | C14H15NO4S3
